US07910740B2
96 mg (0.2 mmol) [4-((S)-1-amino-3-methyl-butyl)-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine trihydrochloride and 25 mg (0.2 mmol) pivaloylchloride were suspended in methylene chloride (2 ml) and 101 mg (1 mmol) triethyl amine was added at room temperature. The reaction was stirred over night, diluted with methylene chloride, washed once with water, once with brine, dried over sodium sulphate, filtered and the solvent was evaporated under reduced pressure to yield 90 mg (99%) N—((S)-1-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-3-methyl-butyl)-2,2-dimethyl-propionamide as a light yellow solid. MS ISP (m/e): 456.3 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.37 (s, 1H), 7.88 (s, 1H), 7.65 (s, 1H), 7.55 (d, 1H), 7.22 (d, 1H), 7.05-6.99 (m, 2H), 6.44 (s, 1H), 4.95 (m, 1H), 3.82 (s, 3H), 2.14 (s, 3H), 1.73 (m, 2H), 1.65 (m, 1H), 1.14 (s, 9H), 0.91 (d, 3H), 0.87 (d, 3H).

reactant | [4-((S)-1-amino-3-methyl-butyl)-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine trihydrochloride | 0.2 mmol, 96 mg | Cl.Cl.Cl.N[C@@H](CC(C)C)C=1N=C(SC1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC
reactant | pivaloylchloride | 0.2 mmol, 25 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | triethyl amine | 1 mmol, 101 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | N—((S)-1-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-3-methyl-butyl)-2,2-dimethyl-propionamide | 90 mg, 99% | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC=C(N1)[C@H](CC(C)C)NC(C(C)(C)C)=O | C24H33N5O2S
